US08039472B2
To a cooled solution (0° C.) of 5-Oxo-1-(3-pyrrol-1-yl-propyl)-pyrrolidine-3-carboxylic acid methyl ester in THF, 0.2M LiOH is added and RM is stirred for 3 hours gradually warming to room temperature. Reaction mixture is acidified with 1N HCl and product extracted into ethyl acetate. The organic phase is washed with brine, dried over magnesium sulphate and the solvent evaporated in vacuo to yield 5-Oxo-1-(3-pyrrol-1-yl-propyl)-pyrrolidine-3-carboxylic acid.

reactant | 5-Oxo-1-(3-pyrrol-1-yl-propyl)-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)CCCN1C=CC=C1 | C13H18N2O3
reactant | HCl | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | LiOH | 0.2M | [Li+].[OH-]
product | 5-Oxo-1-(3-pyrrol-1-yl-propyl)-pyrrolidine-3-carboxylic acid | O=C1CC(CN1CCCN1C=CC=C1)C(=O)O | C12H16N2O3
